US07521451B2
4,5-dimethylphthalic anhydride (1.7 g, 9.6 mmol) and 4-fluoroaniline (1.1 g, 9.6 mmol) were stirred with heating in dimethylformamide at 150° C. for 1 hr. After cooling, water was added to the reaction mixture, and the precipitated crystals were collected by filtration, washed with water, and dried. The resulting crystals were purified by silica gel chromatography (chloroform) to give 2.0 g of 5,6-dimethyl-2-(4-fluorophenyl)isoindolin-1,3-dione.

reactant | 4,5-dimethylphthalic anhydride | 9.6 mmol, 1.7 g | CC=1C=C2C(C(=O)OC2=O)=CC1C | C10H8O3
reactant | 4-fluoroaniline | 9.6 mmol, 1.1 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(4-fluorophenyl)isoindolin-1,3-dione | 2.0 g | CC=1C=C2C(N(C(C2=CC1C)=O)C1=CC=C(C=C1)F)=O | C16H12FNO2
